US07541473B2
A mixture of 29.5 ml (0.3 mol) of alpha-picoline with 140 ml of tetrahydrofuran was cooled to −20° C. and 187.5 ml of n-butyllithium (1.6M in hexane, 0.3 mol) were subsequently added while stirring. The mixture was allowed to warm to room temperature while stirring and a solution of 39.6 g (0.3 mol) of 1-indanone in 35 ml of tetrahydrofuran was then added over a period of 25 minutes while stirring. The mixture was then stirred for a further 1.5 hours and hydrolyzed with 600 ml of dilute hydrochloric acid, the organic phase was separated off and the aqueous phase was extracted once with diethyl ether. The aqueous phase was then neutralized with aqueous ammonia solution and extracted 3 times with 150 ml each time of chloroform. The organic phases were combined and the solvent was distilled off. The 1-(2-pyridinylmethyl)-1-indanol obtained in this way was dissolved using 500 ml of 10% strength by weight hydrochloric acid and heated for 3 hours on a waterbath. The reaction mixture was cooled, washed with ether and the aqueous phase was neutralized with aqueous ammonia solution. The neutralized aqueous phase was extracted 3 times with 150 ml each time of chloroform and the combined organic phases were dried over magnesium sulfate. After the magnesium sulfate had been filtered off, the solvent was distilled off to leave 52.7 g of a mixture of 2-(1H-inden-3-ylmethyl)pyridine and 2-[(E)-2,3-dihydro-1H-inden-1-ylidenemethyl]pyridine in a ratio of 10:9 in a total yield of 95%. NMR 1H (CDCl3): 8.61 (d, 1H); 7.61 (td, 1H); 7.55 (d, 1H); 7.51 (d, 1H); 7.36 (d, 1H); 7.32-7.22 (m, 3H); 7.16 (dd, 1H); 6.31 (m, 1H); 4.17 (br s, 2H); 3.43 (br s, 2H).

reactant | alpha-picoline | 0.3 mol, 29.5 ml | N1=C(C=CC=C1)C | C6H7N
reactant | n-butyllithium | 0.3 mol, 1.6M, 187.5 ml | C(CCC)[Li]
reactant | 1-indanone | 0.3 mol, 39.6 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | hydrochloric acid | 600 ml | Cl | ClH
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 1-(2-pyridinylmethyl)-1-indanol | N1=C(C=CC=C1)CC1(CCC2=CC=CC=C12)O | C15H15NO
